US06924294B2
A. Ethyl (3S, 4aR, 6S, 8aR) 6-(3-ethoxycarbonylphenylamino)-2-methoxycarbonyl-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate
Following the procedures from Example 1A, and using ethyl 6-oxo-2-(methoxycarbonyl)-decahydroisoquinoline-3-carboxylate (11.4 g, 40.28 mmol), 3-aminobenzoic acid ethyl ester (3.5 g, 21.2 mmol), glacial acetic acid (5.0 mL, 84.0 mmol), and sodium triacethoxyborohydride (12.58 g, 59.36 mmol) flash chromatography (silica gel, hexane-ethyl acetate 3:1) afforded 8.35 g (92% yield) of the title compound.

reactant | ethyl 6-oxo-2-(methoxycarbonyl)-decahydroisoquinoline-3-carboxylate | 40.28 mmol, 11.4 g | O=C1CC2CC(N(CC2CC1)C(=O)OC)C(=O)OCC | C14H21NO5
reactant | 3-aminobenzoic acid ethyl ester | 21.2 mmol, 3.5 g | C(C)OC(C1=CC(=CC=C1)N)=O | C9H11NO2
reactant | acetic acid | 84.0 mmol, 5.0 mL | C(C)(=O)O | C2H4O2
reactant | sodium | [Na] | Na
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | Ethyl (3S, 4aR, 6S, 8aR) 6-(3-ethoxycarbonylphenylamino)-2-methoxycarbonyl-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate | 8.35 g, 92% yield | C(C)OC(=O)C=1C=C(C=CC1)N[C@@H]1C[C@@H]2C[C@H](N(C[C@@H]2CC1)C(=O)OC)C(=O)OCC | C23H32N2O6
